US05360802
Step 6: 1-(1,1-Dimethylethylsulphonylaminocarbonyl)-3-aminobenzene
In the same way as that described in Example 11, Step 2, using 1-(1,1-dimethylethylsulphonylaminocarbonyl)-3-nitrobenzene (0.36 g, 1.26 mmol), 10% palladium on carbon (0.1 g, 28% (w/w)) in water (2 ml) and ethanol (25 ml), the title compound (0.32 g, 99%) was afforded as a colourless solid. mp 150° C. (dec.). 1H NMR (360MHz, D6-DMSO) δ 1.30 (9H, s), 4.99 (2H, brs), 6.56-6.63 (1H, m), 6.97 (1H, t, J=7.7 Hz), 7.13-7.25 (2H, m).

reactant | 1-(1,1-dimethylethylsulphonylaminocarbonyl)-3-nitrobenzene | 1.26 mmol, 0.36 g | CC(C)(S(=O)(=O)NC(=O)C1=CC(=CC=C1)[N+](=O)[O-])C | C11H14N2O5S
catalyst | palladium on carbon | 0.1 g | [Pd] | Pd
solvent | water | 2 ml | O | H2O
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 1-(1,1-Dimethylethylsulphonylaminocarbonyl)-3-aminobenzene | 0.32 g, 99% | CC(C)(S(=O)(=O)NC(=O)C1=CC(=CC=C1)N)C | C11H16N2O3S
